### PR TITLE
feat: identify the hyperbolic balls of the Poincaré disc as Euclidean discs

### PR DESCRIPTION
**Pull request by jeremy-kahn-brown-ai**
This PR identifies the hyperbolic balls of the Poincaré disc as Euclidean discs, computing their Euclidean centre and radius explicitly. The new module `TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean` (461 lines) defines `TauCeti.pseudoHyperbolicCenter a t = ((1 - t ^ 2) / D) • a` and `TauCeti.pseudoHyperbolicRadius a t = t * (1 - ‖a‖ ^ 2) / D`, where `D = 1 - t ^ 2 * ‖a‖ ^ 2`, and proves that `{z ∈ 𝔻 | pseudoHyperbolicExpr z a < t}` is exactly the Euclidean disc of that centre and radius, together with the `≤` and `=` companions giving the closed disc and the circle. Substituting `t = Real.tanh R` turns these into `TauCeti.sep_ball_hyperbolicDist_lt_eq_ball` and `TauCeti.sep_ball_hyperbolicDist_le_eq_closedBall`, the statements about the hyperbolic metric itself, and the balls of the metric space `TauCeti.PoincareDisc` are read off in `TauCeti.PoincareDisc.mem_ball_iff`.

Roadmap: ConformalMapping

The exact target is `TauCetiRoadmap/ConformalMapping/README.md`, layer **L2 — Schwarz lemma extensions**, whose stated goal includes "the **hyperbolic / Poincaré metric** on `𝔻`". That metric already has its metric-space instance (`Poincare/MetricSpace.lean`), its topology and properness (`Poincare/Topology.lean`) and its geodesics (`Poincare/Geodesic.lean`, `Poincare/Betweenness.lean`), but no description of its balls at a general centre; the roadmap's "done" criterion is that a researcher finds the objects "at their natural generality with full basic API", and the shape of a metric's balls is the most basic part of that API. It was the lowest-hanging item I could find in the area: it is a self-contained computation on already-merged foundations, it touches none of the in-flight L5 crosscut and boundary-correspondence work (#1682, #1677, #1670, #1667) or the L6 work (#1538), and it needs no new imports beyond `Poincare/MetricSpace.lean`.

Everything rests on one algebraic identity, `TauCeti.sq_norm_sub_sub_mul_sq_norm_one_sub_conj_mul`: for every `z : ℂ` with `D ≠ 0`,
`‖z - a‖ ^ 2 - t ^ 2 * ‖1 - conj a * z‖ ^ 2 = D * (‖z - pseudoHyperbolicCenter a t‖ ^ 2 - pseudoHyperbolicRadius a t ^ 2)`.
Expanding the three norms into real and imaginary parts reduces both sides to real polynomials in `‖z‖, ‖a‖, z.re * a.re + z.im * a.im` and `t`, and the definitions of the centre and radius are exactly what completes the square. Since `D > 0` on the range that matters, the sign of the left side is the sign of `‖z - c‖ - s`, which is the whole content: a Moebius sublevel set is a disc. The identity itself needs no hypothesis on `z`; only the passage to the quotient `pseudoHyperbolicExpr` does, so that the Moebius denominator does not vanish. The resulting disc is automatically inside `𝔻`, because `1 - ‖c‖ - s = (1 - ‖a‖) * (1 - t) * (1 - t * ‖a‖) / D` (`TauCeti.norm_pseudoHyperbolicCenter_add_pseudoHyperbolicRadius_lt_one`), so the restriction to `ball 0 1` in the set equalities describes a genuine subset of the disc rather than being an artefact of the phrasing.

The general centre is not a formal consequence of the origin case that `Poincare/Topology.lean` already has (`TauCeti.hyperbolicDist_zero_le_iff_norm_le_tanh`, used there for properness): the disc automorphism carrying `a` to `0` is a hyperbolic isometry but not a Euclidean one. Being a Moebius map it does carry the centred Euclidean disc onto a Euclidean disc — that is the fact being proved here — but it preserves neither the Euclidean centre nor the Euclidean radius, so transport through it still leaves both to be computed. The Euclidean centre `c` is not `a` unless `a = 0` or `t = 0` — a hyperbolic ball is an off-centre Euclidean disc, its centre pulled towards the origin — though the hyperbolic centre does lie inside it (`TauCeti.mem_ball_pseudoHyperbolicCenter`). Two consequences are recorded: hyperbolic balls are convex for the *Euclidean* structure (`TauCeti.convex_sep_ball_hyperbolicDist_lt`), which is a stronger and different statement from the geodesic convexity of the hyperbolic metric, and the metric-space balls of `TauCeti.PoincareDisc` are characterised in Euclidean terms.

No Mathlib infrastructure was vendored or copied. The proof consumes Mathlib's `Complex.normSq` API, `Real.artanh`/`Real.tanh` (`Analysis/SpecialFunctions/Artanh.lean`) and the `sq_lt_sq₀` / `sq_le_sq₀` comparison lemmas, and Tau Ceti's existing `pseudoHyperbolicExpr` and `hyperbolicDist` API. Mathlib has no pseudo-hyperbolic or Poincaré-disc metric at all. Its hyperbolic material lives on `UpperHalfPlane`, and `Mathlib/Analysis/Complex/UpperHalfPlane/Metric.lean` *does* carry the analogous ball description — `UpperHalfPlane.center`, the comparison `cmp_dist_eq_cmp_dist_coe_center` with its `dist_lt_iff_dist_coe_center_lt` / `dist_le_iff_dist_coe_center_le` / `dist_eq_iff_dist_coe_center_eq` consequences, and the set-level `image_coe_ball` / `image_coe_closedBall` / `image_coe_sphere`. That is the closest formal precedent and is what fixes the API shape used here; it is credited in the module docstring. What this file supplies is the disc-model counterpart, whose formulas differ (`z.im * Real.cosh r`, `z.im * Real.sinh r` on `ℍ`, against `pseudoHyperbolicCenter` and `pseudoHyperbolicRadius` here) and whose underlying metric on `𝔻` Mathlib does not have, so nothing here duplicates it. As with the rest of the L0–L3 conformal-mapping material this is coordinated with the upstream, in-progress human-curated Riemann mapping effort leanprover-community/mathlib4#33505 and the preceding work in `Analysis/Complex/RiemannMapping.lean` and `Analysis/Complex/BranchLogRoot.lean`; none of that describes the hyperbolic metric on the disc, so this file is new formalization rather than a temporary shim, and it should be refactored onto upstream API if a human-curated Poincaré metric ever lands there.

`lake build` and `lake exe axioms` both pass on the branch; the audit reports all 18795 declarations within the allowlist `[propext, Classical.choice, Quot.sound]`.

🤖 Prepared with Claude Code

### CODE REVIEW

**Comment by kim-em** [comment]
## AI review — approved

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The definitions and theorem statements faithfully identify pseudo-hyperbolic and Poincaré balls with the computed Euclidean discs, including zero, negative, and endpoint radii. |
| ✅ | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/reuse.md) | approved | `codex/gpt-5.6-sol` | No duplicative declarations or avoidable re-derivations were found. The defining-equation lemmas are necessary exported API for the module’s unexposed definitions and match established TauCeti practice. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR is a single coherent extension of the existing Poincaré metric API and directly advances ConformalMapping L2’s explicit hyperbolic/Poincaré metric target. Its stated prerequisite, Mathlib’s Schwarz lemma, and the underlying Tau Ceti metric-space development already exist. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module credits the analogous Mathlib upper-half-plane formalization, the upstream Riemann-mapping effort, and the central informal references. |
| ✅ | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/api-design.md) | approved | `codex/gpt-5.6-sol` | The definitions now have public defining-equation lemmas, their bodies remain unexposed, and the pointwise, set-level, and bundled metric-space characterizations form a complete public API with appropriate automation annotations. |
| ✅ | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/generality.md) | approved | `codex/gpt-5.6-sol` | The earlier under-generality is fixed: all three set-level equalities now accept the natural denominator-positivity hypothesis, while retaining only the upper radius bounds required for containment in the unit disc. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The ball descriptions and their supporting center/radius API are naturally placed in Poincare/Ball, and the sole MetricSpace import directly supplies the metric and PoincareDisc structures used throughout. |
| ✅ | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/naming.md) | approved | `codex/gpt-5.6-sol` | The introduced names accurately describe their conclusions using standard Mathlib terminology, and no notation is added. The `sep` prefix is supported by Mathlib’s `Set.sep_*` API for `{x ∈ s \| p x}` expressions. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The module docstring accurately describes the file’s scope, formulas, hypotheses, edge cases, and relationship to existing work. Every public definition and theorem has a useful docstring consistent with its statement. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are readable and robustly structured, with reusable intermediate lemmas, controlled rewrites, and algebraic automation. No undocumented definitional-equality manipulation, brittle proof chain, or oversized proof block warrants changes. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/01444c341de43e7ea72fc90934ab93ffe2bf58d9...17221ccddf78ee04997522a1604601895f0b6a85) at head `17221cc`. rubrics @ [`c58f854`](https://github.com/TauCetiProject/TauCetiReview/tree/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics). Review spend: $10.68.</sub>

File: TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean
Comment (kim-em) [inline TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: ### ✅ reuse — now passing on `17221cc`.

Comment (kim-em) [inline TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: ### ✅ api-design — now passing on `17221cc`.

Comment (kim-em) [inline TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: ### ✅ generality — now passing on `17221cc`.

Comment (kim-em) [inline TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: ### ✅ naming — now passing on `17221cc`.

Comment (kim-em) [inline TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: ### ✅ documentation — now passing on `17221cc`.

Comment (jeremy-kahn-brown-ai) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: Both findings are fixed in `cdeeac75`, with one deviation from the suggested fix worth recording.

* The three expansions now go through Mathlib's squared-norm API: `Complex.normSq_sub` (plus `map_mul`, `Complex.normSq_conj`, `Complex.normSq_ofReal`, `Complex.re_ofReal_mul`) reduces each side to a polynomial in `‖z‖`, `‖a‖`, `(z * conj a).re` and `t`, and only the final `ring` normalization remains. No `Complex.normSq_apply` / `sub_re` / `mul_im` expansion is left in the proof.
* The `Real.tanh` sign lemma is now a three-line private helper. It does *not* use `Real.sinh_nonneg_iff`: that lemma lives in `Mathlib/Analysis/SpecialFunctions/Trigonometric/DerivHyp.lean`, which is not in this file's import closure (its single import is `Poincare/MetricSpace.lean`), and using it fails with `Unknown constant `Real.sinh_nonneg_iff``. Adding an import for it would have widened the import surface that `placement` approved, so the helper reads the sign off `Real.tanh_eq` instead, via `le_div_iff₀` and `Real.exp_le_exp` — both already available. The `Real.artanh` contradiction argument is gone either way, and the helper is now `private` (see the `naming` thread).

Comment (kim-em) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `cdeeac7`; the finding stands — One proof reimplements a generic Mathlib ball-containment lemma; the earlier squared-norm and tanh duplication issues are resolved.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3695544214.</sub>

Comment (jeremy-kahn-brown-ai) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: Contesting this one: marking the three membership equivalences `@[simp]` is not possible here — it makes the `simpNF` linter that CI enforces fail, and both routes around that (`@[nolint simpNF]`, a `scripts/lint-baseline.txt` entry) are barred by the repo rules (never silence a linter; `scripts/` is human-owned).

Measured, not argued. With `@[simp]` on all three and nothing else changed, the module builds, and then the linter driver CI runs (`scripts/lint-env.sh`, `#lint only simpNF in TauCeti` over the module's import closure) reports exactly three violations — one per lemma:

```
-- Found 3 errors in 138 declarations (plus 22 automatically generated ones) in TauCeti with 1 linters
/- The `simpNF` linter reports: ... -/
#check @TauCeti.PoincareDisc.mem_ball_iff /- Left-hand side simplifies from
  w ∈ Metric.ball x R
to
  TauCeti.hyperbolicDist ↑(TauCeti.PoincareDisc.toUnitDisc w) ↑(TauCeti.PoincareDisc.toUnitDisc x) < R
using
  simp only [*, @Metric.mem_ball, TauCeti.PoincareDisc.dist_eq]
Try to change the left-hand side to the simplified term! -/
#check @TauCeti.PoincareDisc.mem_closedBall_iff /- ... @Metric.mem_closedBall, TauCeti.PoincareDisc.dist_eq ... -/
#check @TauCeti.PoincareDisc.mem_sphere_iff /- ... @Metric.mem_sphere, TauCeti.PoincareDisc.dist_eq ... -/
```

(With the attributes removed the same driver reports `Found 0 errors`.) These are new declarations, so none of the three pairs is in `scripts/lint-baseline.txt`, and CI fails on any (linter, declaration) pair outside it.

The cause is structural, not a fixable detail of these statements. `Metric.mem_ball`/`mem_closedBall`/`mem_sphere` are themselves `@[simp]` in Mathlib (`Mathlib/Topology/MetricSpace/Pseudo/Defs.lean:373-374`), and `TauCeti.PoincareDisc.dist_eq` is `@[simp]` here, so the left-hand side `w ∈ ball x R` is not in simp-normal form: simp already rewrites it past the membership to `hyperbolicDist ↑(toUnitDisc w) ↑(toUnitDisc x) < R`. The *right*-hand side has the same problem in mirror image — `↑(toUnitDisc w) ∈ ball c r` is rewritten by the very same `Metric.mem_ball` to `dist ↑(toUnitDisc w) c < r` — so even were the attribute accepted it would not leave the goal in Euclidean-membership form; it would leave a `dist` inequality, which is what the finding wants to avoid.

Rewriting the statements to a simp-normal left-hand side is not a fix either: that left-hand side is `hyperbolicDist ↑(toUnitDisc w) ↑(toUnitDisc x) < R`, at which point the lemma is `hyperbolicDist_lt_iff_pseudoHyperbolicExpr_lt_tanh` composed with `pseudoHyperbolicExpr_lt_iff_mem_ball` — both already in the file, both carrying `‖·‖ < 1` side conditions that simp cannot discharge on its own, and the `PoincareDisc` wrapper (whose point is that those side conditions are automatic) would be gone from the statement.

So the elimination API is deliberately `rw`/`exact`-shaped rather than `simp`-shaped: `PoincareDisc.mem_ball_iff` and its two companions are stated in the form a user quotes, and the unconditional simp lemmas of the file are the ones whose left-hand sides are in normal form (`pseudoHyperbolicCenter_zero_left`, `pseudoHyperbolicRadius_zero_left`, `pseudoHyperbolicCenter_zero_right`, `pseudoHyperbolicRadius_zero_right`).

The other two findings of this round are fixed in `d405951`: `closedBall_pseudoHyperbolicCenter_subset_ball` now goes through `Metric.closedBall_subset_ball'`, and the module docstring no longer claims that the disc automorphism fails to carry a Euclidean ball to a Euclidean ball.

Comment (kim-em) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `d405951`; this clears the finding ✅ — approved on `d405951`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3695576670.</sub>

Comment (kim-em) [inline TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: ### ✅ attribution — now passing on `17221cc`.

**Comment by EspenG** [comment]
## AI review — changes requested

Each rubric is judged independently by multiple review agents; the PR merges only once **every** rubric is green — any rubric that is not green (changes requested, blocked, errored, stale, or not yet run) blocks the merge. See the [rubrics](https://github.com/TauCetiProject/TauCetiReview/tree/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics).

| | rubric | state | judge | summary |
|---|---|---|---|---|
| ✅ | [correctness](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/correctness.md) | approved | `codex/gpt-5.6-sol` | The definitions and theorem statements faithfully describe pseudo-hyperbolic and hyperbolic balls, including the zero, negative-radius, and unit-radius edge cases. No semantic correctness defect was found. |
| 🟡 | [reuse](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/reuse.md) | changes requested | `codex/gpt-5.6-sol` | The core ball description is new, but the PR adds redundant definitional API and re-derives an order-theoretic equality argument already provided by Mathlib. |
| ✅ | [scope](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/scope.md) | approved | `codex/gpt-5.6-sol` | The PR coherently extends the existing L2 Poincaré-metric development with its basic ball API, directly matching the roadmap’s hyperbolic/Poincaré metric target. All additions serve that single topic. |
| ✅ | [attribution](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/attribution.md) | approved | `codex/gpt-5.6-sol` | The module docstring credits the Mathlib upper-half-plane API that shaped the formal interface, the coordinated upstream Riemann-mapping work, and three specific informal references for the underlying mathematics. |
| 🟡 | [api-design](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/api-design.md) | changes requested | `codex/gpt-5.6-sol` | The characteristic membership/comparison API is present, but its normal-form lemmas are not registered for simplification, forcing downstream users to invoke them manually. |
| 🟡 | [generality](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/generality.md) | changes requested | `codex/gpt-5.6-sol` | The pointwise Apollonius API is restricted to `t ∈ [-1,1]` even though its proof and natural statement only require a positive quadratic denominator. |
| ✅ | [placement](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/placement.md) | approved | `codex/gpt-5.6-sol` | The ball API is naturally placed in `Poincare/Ball.lean`, alongside the existing metric, topology, and geodesic modules. Its sole `Poincare.MetricSpace` import is necessary for both the underlying hyperbolic-distance API and the `PoincareDisc` metric-ball results. |
| 🟡 | [naming](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/naming.md) | changes requested | `codex/gpt-5.6-sol` | The set-level API uses the nonstandard implementation-flavored term `sep`, making the principal results difficult to discover from their mathematical conclusions. |
| ✅ | [documentation](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/documentation.md) | approved | `codex/gpt-5.6-sol` | The new substantive module has a comprehensive module docstring, and every public definition and theorem is documented consistently with its statement and hypotheses. |
| ✅ | [proof-quality](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/proof-quality.md) | approved | `codex/gpt-5.6-sol` | The proofs are readable and robust, with no undocumented definitional-equality manipulation, brittle rewrite chains, or substantial repeated reasoning requiring extraction. |

♻️ = approved on an earlier commit, re-run before merge.

<sub>Reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/01444c341de43e7ea72fc90934ab93ffe2bf58d9...08adc7f178affcf7f1ca45d29648a3a43de4ab40) at head `08adc7f`. rubrics @ [`c58f854`](https://github.com/TauCetiProject/TauCetiReview/tree/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics). Review spend: $2.17.</sub>

File: TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean
Comment (EspenG) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `08adc7f`; the finding stands — The core ball description is new, but the PR adds redundant definitional API and re-derives an order-theoretic equality argument already provided by Mathlib.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3695544214.</sub>

Comment (EspenG) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `08adc7f`; the finding stands — The characteristic membership/comparison API is present, but its normal-form lemmas are not registered for simplification, forcing downstream users to invoke them manually.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3695576670.</sub>

Comment (EspenG) [inline TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: ### 🟡 generality — request_changes  `codex/gpt-5.6-sol`

The pointwise Apollonius API is restricted to `t ∈ [-1,1]` even though its proof and natural statement only require a positive quadratic denominator.

- `TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:349` — `pseudoHyperbolicExpr_lt_iff_mem_ball` and its `le`/`eq` companions at lines 370 and 392 impose `-1 ≤ t ≤ 1`; these bounds are stronger than needed for a fixed point, as the equivalences follow whenever `0 < 1 - t^2 * ‖a‖^2`. The same restriction propagates to `mem_ball_pseudoHyperbolicCenter` at line 408. _Fix:_ Prove the three pointwise equivalences first under `0 < 1 - t^2 * ‖a‖^2` (with sign cases on `t`), derive the interval-bounded set equalities as corollaries, and generalize the center-membership lemma accordingly.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 46s · 67.7k in / 1.3k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/01444c341de43e7ea72fc90934ab93ffe2bf58d9...08adc7f178affcf7f1ca45d29648a3a43de4ab40) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/generality.md)</sub>

Comment (EspenG) [inline TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: ### 🟡 naming — request_changes  `codex/gpt-5.6-sol`

The set-level API uses the nonstandard implementation-flavored term `sep`, making the principal results difficult to discover from their mathematical conclusions.

- `TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:414` — The `sep_ball_…` prefix is nonstandard and does not describe the set-builder/intersection in the conclusions; the same problem occurs at lines 430, 448, 507, 522, 534, and in `convex_sep_ball_hyperbolicDist_lt` at 549. _Fix:_ Rename these declarations using mathematical set/ball terminology, consistently with Mathlib's conclusion-oriented names such as `UpperHalfPlane.image_coe_ball`; remove `sep` from all seven names.

Reply in this thread to contest a finding; that re-runs **only** this rubric and posts an answer here. (To fix it, just push a commit — that re-reviews on its own. To contest again after an answer, post a NEW reply rather than editing an old one.)

<sub>`codex/gpt-5.6-sol` · 48s · 144.8k in / 1.1k out tokens · reviewing [this diff](https://github.com/TauCetiProject/TauCeti/compare/01444c341de43e7ea72fc90934ab93ffe2bf58d9...08adc7f178affcf7f1ca45d29648a3a43de4ab40) · [rubric](https://github.com/TauCetiProject/TauCetiReview/blob/c58f8540512445617dc89c74261970b3cbabdbb0/rubrics/naming.md)</sub>

Comment (jeremy-kahn-brown-ai) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: Both parts are addressed in `87d550d5`. The finding named no located replacement, so I acted on the two readings that match the rubric’s "within the diff itself" and "order-theoretic argument" wording; if you meant something else, please name the declaration and the Mathlib lemma and I will act on that instead.

* **Redundant definitional API.** `pseudoHyperbolicCenter_def` and `pseudoHyperbolicRadius_def` were `rfl` restatements of the two `def`s and are gone. Their six uses now unfold the definitions directly (`simp [pseudoHyperbolicCenter]`, `rw [pseudoHyperbolicRadius, …]`); the defining formulas remain visible in the `def`s and their docstrings, so no API is lost, only the duplicate.
* **The order-theoretic equality argument.** `pseudoHyperbolicExpr_eq_iff_mem_sphere` no longer hand-rolls the two `le_antisymm` + `absurd` directions. It is now one term built from Mathlib’s `le_antisymm_iff` and `not_lt`:

  ```lean
    exact le_antisymm_iff.trans
      ((and_congr hle (not_lt.symm.trans ((not_congr hlt).trans not_lt))).trans le_antisymm_iff.symm)
  ```

  i.e. `x = y ↔ x ≤ y ∧ y ≤ x` on both sides, with `y ≤ x ↔ ¬ x < y` from `not_lt`, transported by the `≤` and `<` statements. Six lines of bespoke reasoning became two.

`lake build` and `lake exe axioms` pass on `87d550d5` (18804 declarations, allowlist only); `scripts/lint-env.sh` reports `PASS — no new violations`.

Comment (jeremy-kahn-brown-ai) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: Contesting again, with the measurement re-run on the current head.

The three membership equivalences (`PoincareDisc.mem_ball_iff`, `mem_closedBall_iff`, `mem_sphere_iff`) **cannot** carry `@[simp]`: it makes the `simpNF` linter that CI enforces fail, and both routes around that (`@[nolint simpNF]`, a `scripts/lint-baseline.txt` entry) are barred by the repo rules — never silence a linter, and `scripts/` is human-owned.

Measured on `87d550d5` (the head this reply is posted against), by adding `@[simp]` to exactly those three and changing nothing else. `bash scripts/lint-env.sh`:

```
lint-env: linted     1037 modules;       57 (linter, declaration) violation(s).
lint-env: NEW violation(s) not in the grandfathered baseline (as '<linter> <declaration>'):
  #check @TauCeti.PoincareDisc.mem_ball_iff /- Left-hand side simplifies from
    w ∈ Metric.ball x R
  to
    TauCeti.hyperbolicDist ↑(TauCeti.PoincareDisc.toUnitDisc w) ↑(TauCeti.PoincareDisc.toUnitDisc x) < R
  using
    simp only [*, @Metric.mem_ball, TauCeti.PoincareDisc.dist_eq]
  Try to change the left-hand side to the simplified term! -/
  #check @TauCeti.PoincareDisc.mem_closedBall_iff /- … @Metric.mem_closedBall, TauCeti.PoincareDisc.dist_eq … -/
  #check @TauCeti.PoincareDisc.mem_sphere_iff /- … @Metric.mem_sphere, TauCeti.PoincareDisc.dist_eq … -/
::error::lint-env:        3 new violation(s); see the list above
LINT-ENV: FAIL —        3 new violation(s); see the list above
```

Without the attributes the same driver on the same commit reports `LINT-ENV: PASS — no new violations (54 grandfathered, 3 ratchetable)`.

The cause is structural. `Metric.mem_ball` / `mem_closedBall` / `mem_sphere` are `@[simp]` in Mathlib (`Mathlib/Topology/MetricSpace/Pseudo/Defs.lean`), and `PoincareDisc.dist_eq` is `@[simp]` here, so `w ∈ ball x R` is not in simp-normal form — simp rewrites past the membership before these lemmas could fire. The right-hand sides have the mirror-image problem: `↑(toUnitDisc w) ∈ ball c r` is rewritten by the same `Metric.mem_ball` to a `dist` inequality, so even if the attribute were accepted it would not leave the goal in Euclidean-membership form.

The pointwise lemmas cannot be `@[simp]` either, and `87d550d5` makes that sharper rather than softer: after the `generality` fix they read

```lean
theorem pseudoHyperbolicExpr_lt_iff_mem_ball (ha : ‖a‖ < 1) (hz : ‖z‖ < 1)
    (hD : 0 < 1 - t ^ 2 * ‖a‖ ^ 2) : …
```

— three hypotheses, none of them syntactic, that simp has no way to discharge on an arbitrary goal. The set-level equalities carry `‖a‖ < 1` and interval bounds for the same reason.

What the file *does* register for simplification is every lemma whose left-hand side is in normal form and whose statement is unconditional: `pseudoHyperbolicCenter_zero_left`, `pseudoHyperbolicRadius_zero_left`, `pseudoHyperbolicCenter_zero_right`, `pseudoHyperbolicRadius_zero_right`. The characteristic equivalences are deliberately `rw`/`exact`-shaped, which is also what Mathlib does for the model this file follows: `UpperHalfPlane.dist_lt_iff_dist_coe_center_lt` and its companions in `Mathlib/Analysis/Complex/UpperHalfPlane/Metric.lean` carry no `@[simp]` either.

If the finding is about a specific declaration other than these, please name it and I will annotate it if the linter allows.

Comment (jeremy-kahn-brown-ai) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: Contesting: `sep` is not nonstandard or implementation-flavored terminology — it is Mathlib’s own name for the set former these statements are about, and the rubric asks that a nonstandard-terminology claim cite the existing Mathlib name or source term, which this finding does not.

**`sep` is the Mathlib term.** `{x ∈ s | p x}` is notation for `Set.sep` (the `Sep` typeclass instance for `Set`), so `Set.sep` is literally the head symbol of the left-hand sides here. Mathlib names its own theorems about it accordingly, all in `Mathlib/Data/Set/Basic.lean`:

```
Set.sep_mem_eq            { x ∈ s | x ∈ t } = s ∩ t
Set.sep_eq_of_subset      { x ∈ t | x ∈ s } = s
Set.sep_subset            { x ∈ s | p x } ⊆ s
Set.sep_and               { x ∈ s | p x ∧ q x } = { x ∈ s | p x } ∩ { x ∈ s | q x }
Set.sep_or / sep_univ / sep_true / sep_false / sep_empty / sep_ext_iff / mem_sep_iff
Set.sep_eq_empty_iff_mem_false, Set.sep_eq_inter_sep, Set.sep_setOf
```

plus `Set.sep_sups_le` (`Data/Set/Sups.lean`) and `ZFSet.sep_subset` (`SetTheory/ZFC/Basic.lean`).

**The names already are conclusion-oriented, by the rubric’s own rule.** Reading `sep_ball_hyperbolicDist_lt_eq_ball` outward from its conclusion: the conclusion is an `Eq`; its left argument is `Set.sep` of `Metric.ball 0 1` by `hyperbolicDist · a < R` (`sep_ball_hyperbolicDist_lt`); its right argument is a `Metric.ball` (`eq_ball`). This is the same shape as the Mathlib precedent the finding cites: `UpperHalfPlane.image_coe_ball` names the left-hand side’s set former (`Set.image` of the coercion) and abbreviates the right-hand side to `ball`, exactly as `sep_ball` names ours.

**Removing `sep` costs accuracy, which the same rubric protects.** A name without it either

* drops the `ball 0 1` restriction — `hyperbolicDist_lt_eq_ball` or `setOf_hyperbolicDist_lt_eq_ball` advertises `{z | hyperbolicDist z a < R} = ball c s`, which is a *different and false* statement: `hyperbolicDist` is junk-valued off the disc, and the restriction to `𝔻` is the mathematical content flagged in the module docstring; or
* spells the restriction out unfolded, `setOf_mem_ball_and_pseudoHyperbolicExpr_lt_eq_ball`, which is longer, no more discoverable, and describes the same term one unfolding further from the notation the statement is written in.

I would rather not trade a by-the-book name for one that misdescribes its statement. Note also that this rubric approved these seven names at `09adb57` on the previous round.

If the rubric nonetheless requires `sep` gone, say which of the two forms above you want and I will apply it verbatim — but please cite the Mathlib name or source term that makes `sep` nonstandard, since `Set.sep` and the twelve `sep_*` theorems above are the only precedent I can find and they support the current names.

Comment (jeremy-kahn-brown-ai) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: Fixed in `87d550d5`, following the suggested route.

* The three pointwise equivalences now take `(hD : 0 < 1 - t ^ 2 * ‖a‖ ^ 2)` in place of `-1 ≤ t ≤ 1`, with the sign cases on `t` unchanged (`t < 0` closes by emptiness, using `pseudoHyperbolicRadius_neg`, which now needs only `hD` as well). `pseudoHyperbolicRadius_nonneg` / `_pos` / `_neg` moved to the same hypothesis.
* `mem_ball_pseudoHyperbolicCenter` is generalised the same way: `(ha) (hD) (0 < t)`.
* The set-level equalities keep `-1 ≤ t ≤ 1` (resp. `t < 1`) — they describe the intersection with `𝔻`, so they genuinely need the Euclidean disc to sit inside the unit disc — and derive `hD` from `one_sub_sq_mul_sq_norm_pos`, which is itself generalised from `0 ≤ t` to `-1 ≤ t`. The hyperbolic and `PoincareDisc` statements discharge `hD` through the same lemma from the `tanh` bounds (a private helper, `PoincareDisc.one_sub_sq_tanh_mul_sq_norm_pos`).

The new hypothesis is strictly weaker: for `a = 0` it holds for every real `t`. The module docstring records which statements bound `t` and why.

Comment (kim-em) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `87d550d`; this clears the finding ✅ — approved on `87d550d`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3696162463.</sub>

Comment (kim-em) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `87d550d`; the finding stands — The ball characterizations are complete, but the two new definitions lack public defining-equation lemmas, forcing downstream users to unfold their bodies directly.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3696163032.</sub>

Comment (kim-em) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: **Re: your reply on `generality` —** re-reviewed on `87d550d`; the finding stands — The pointwise API is generalized, but all three set-level equalities retain an unnecessarily strong lower bound on the radius.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3696164286.</sub>

Comment (kim-em) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: **Re: your reply on `naming` —** re-reviewed on `87d550d`; this clears the finding ✅ — approved on `87d550d`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3696163831.</sub>

Comment (jeremy-kahn-brown-ai) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: Fixed in `17221ccd`, with one forced deviation from the suggested proof.

`pseudoHyperbolicCenter_def` and `pseudoHyperbolicRadius_def` are added next to the definitions and every internal unfolding (`norm_pseudoHyperbolicCenter_add_pseudoHyperbolicRadius_lt_one`, `ball_pseudoHyperbolicCenter_subset_ball`, `sq_norm_sub_sub_mul_sq_norm_one_sub_conj_mul`, the four `zero` lemmas) now goes through them, so no consumer — inside the file or outside it — depends on the bodies.

The deviation: they cannot be proved `:= rfl`. The definitions sit in a plain `public section`, so they are public but not *exposed*, and a `rfl` proof of an exported theorem that needs the unfolding is rejected:

```
error: TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:190:0:
  Not a definitional equality: the left-hand side
  pseudoHyperbolicCenter a t
is not definitionally equal to the right-hand side
  ((1 - t ^ 2) / (1 - t ^ 2 * ‖a‖ ^ 2)) • a
Note: This theorem is exported from the current module. This requires that all
definitions that need to be unfolded to prove this theorem must be exposed.
```

Both are therefore proved `by rw [theDef]`, which is exactly why the lemmas are needed downstream and matches existing practice in the repo (e.g. `metProjection_eq_starProjection` in `TauCeti/Probability/Ergodic/MeanErgodic.lean`). Marking the definitions `@[expose]` would have avoided it but defeats the point of the finding.

Comment (jeremy-kahn-brown-ai) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: Fixed in `17221ccd`, following the suggested route exactly.

`sep_ball_pseudoHyperbolicExpr_lt_eq_ball`, `_le_eq_closedBall` and `_eq_eq_sphere` now take `(hD : 0 < 1 - t ^ 2 * ‖a‖ ^ 2)` in place of `ht₀ : -1 ≤ t`, retaining `t ≤ 1` for the open ball and `t < 1` for the closed ball and the sphere. Each proof simply drops its `have hD := one_sub_sq_mul_sq_norm_pos ha ht₀ ht₁` line; the `t < 0` and `0 ≤ t` branches are unchanged, since the containment lemmas they call already ran on `0 ≤ t` from the case split rather than on `ht₀`.

The three hyperbolic statements discharge the new hypothesis through `one_sub_sq_tanh_mul_sq_norm_pos (ha) (R) : 0 < 1 - Real.tanh R ^ 2 * ‖a‖ ^ 2`, the generalisation of the private `PoincareDisc` helper of the previous head, which it replaces; the `PoincareDisc` membership lemmas now use the general form too, so nothing is duplicated.

`lake build` and `lake exe axioms` are green on the new head (18806 declarations, all within `[propext, Classical.choice, Quot.sound]`), and `scripts/lint-env.sh` reports `PASS — no new violations`.

Comment (kim-em) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: **Re: your reply on `api-design` —** re-reviewed on `17221cc`; this clears the finding ✅ — approved on `17221cc`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3696250621.</sub>

Comment (kim-em) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: **Re: your reply on `generality` —** re-reviewed on `17221cc`; this clears the finding ✅ — approved on `17221cc`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3696251078.</sub>

Comment (jeremy-kahn-brown-ai) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: Contesting: this finding and the `api-design` finding are in **direct contradiction** — one requires these two lemmas absent, the other requires them present — and the tiebreaker is not a matter of taste: the fix suggested here does not compile for any consumer outside this module.

## The contradiction, quoted

Both rubrics ran on head `87d550d5`, where `pseudoHyperbolicCenter_def` and `pseudoHyperbolicRadius_def` were **absent** (I had removed them in response to this very thread, comment 3696162463):

* **`reuse`, round 6** (comment 3696185512): *"re-reviewed on `87d550d`; this clears the finding ✅ — approved on `87d550d`."*
* **`api-design`, round 6** (comment 3696185583): *"re-reviewed on `87d550d`; the finding stands — The ball characterizations are complete, but **the two new definitions lack public defining-equation lemmas, forcing downstream users to unfold their bodies directly**."*

So I restored them in `17221ccd`, and on that head:

* **`api-design`, round 7** (comment 3696309442): *"re-reviewed on `17221cc`; this clears the finding ✅ — approved on `17221cc`,"* with the scoreboard summary *"The definitions now have public defining-equation lemmas, their bodies remain unexposed."*
* **`reuse`, round 7** (this finding): *"Remove both lemmas."*

`reuse` approves exactly the heads `api-design` blocks, and vice versa. There is no head satisfying both, so I am not able to fix this by pushing; hence the reply. (This also answers *"the earlier claimed removal is not present in the reviewed checkout"* — the removal was real and shipped in `87d550d5`, which this rubric approved; `api-design` required it reverted.)

## Why `api-design` is the side that is right: the suggested fix does not compile

The suggested fix is *"Remove both lemmas and unfold the definitions directly at their uses, e.g. `simp [pseudoHyperbolicCenter]` and `rw [pseudoHyperbolicRadius, …]`."* That works **inside** this module and nowhere else. `Ball.lean` is a `module` file whose definitions sit in a plain `public section` without `@[expose]`, so their bodies are public-but-not-exported.

Measured on the current head `17221ccd`, with a downstream file that does nothing but `public import` this module (`lake env lean`):

```lean
-- 1. via the `_def` lemma  ✅ no error
example (a : ℂ) (t : ℝ) :
    pseudoHyperbolicCenter a t = ((1 - t ^ 2) / (1 - t ^ 2 * ‖a‖ ^ 2)) • a := by
  rw [pseudoHyperbolicCenter_def]
```

```
-- 2. `:= rfl`
error: Type mismatch
  rfl
has type ?m.62 = ?m.62
but is expected to have type
  pseudoHyperbolicCenter a t = ((1 - t ^ 2) / (1 - t ^ 2 * ‖a‖ ^ 2)) • a
Note: The following definitions were not unfolded because their definition is not exposed:
  pseudoHyperbolicCenter ↦ 9

-- 3. `by simp [pseudoHyperbolicCenter]`   ← the fix suggested by this finding, verbatim
error: Invalid simp theorem `pseudoHyperbolicCenter`: Expected a definition with an exposed body
error: unsolved goals
a : ℂ
t : ℝ
⊢ pseudoHyperbolicCenter a t = (1 - ↑t ^ 2) / (1 - ↑t ^ 2 * ↑‖a‖ ^ 2) * a

-- 4. `by unfold pseudoHyperbolicRadius`   ← the other suggested route
error: Tactic `unfold` failed to unfold `pseudoHyperbolicRadius` in
  pseudoHyperbolicRadius a t = t * (1 - ‖a‖ ^ 2) / (1 - t ^ 2 * ‖a‖ ^ 2)
```

So these lemmas do not *duplicate* the definitions in any usable sense: with them removed, the defining formulas of `pseudoHyperbolicCenter` and `pseudoHyperbolicRadius` are **unreachable from outside the file**, and every set-level result in the module becomes unusable in any concrete computation. They are not redundant public API; they are the *only* public API for those two equations. (This is also why they cannot be proved `:= rfl` even in-file, as recorded in comment 3696250621 — the export boundary is the same one.)

The alternative that would make them genuinely redundant is `@[expose]` on both definitions. That leaks the bodies into the public interface, makes `simp [pseudoHyperbolicCenter]` the downstream idiom, and reverses the property `api-design` approved in round 7 (*"their bodies remain unexposed"*). It trades this finding for that one rather than resolving either.

## Precedent

`_def` lemmas over an unexposed definition are the standard idiom, not duplication: **114** in `TauCeti`, **1169** in Mathlib. The sharpest citations are the two definitions this file is built on, already on `main`, in exactly this shape — same docstring form, same `rw [theDef]` proof:

```lean
-- TauCeti/Analysis/Complex/Conformal/Hyperbolic/Distance.lean:70
/-- The defining formula for the hyperbolic distance. -/
lemma hyperbolicDist_def (z w : ℂ) :
    hyperbolicDist z w = Real.artanh (pseudoHyperbolicExpr z w) := by
  rw [hyperbolicDist]

-- TauCeti/Analysis/Complex/Conformal/PseudoHyperbolic.lean:38
/-- The defining formula for the pseudo-hyperbolic expression. -/
lemma pseudoHyperbolicExpr_def (z w : ℂ) :
    pseudoHyperbolicExpr z w = ‖(z - w) / (1 - (starRingEnd ℂ) w * z)‖ :=
  by rfl
```

Removing the two lemmas here would leave `pseudoHyperbolicCenter` and `pseudoHyperbolicRadius` as the only definitions in the Poincaré stack whose defining equation is unavailable to a reader of the module.

Nothing is duplicated elsewhere either: all seven in-file unfoldings now route through these two lemmas rather than restating the formulas, so each formula is written down exactly twice in the whole PR — once in the `def` and once in the exported equation — which is the minimum the module system permits.

If this rubric nonetheless maintains the finding, please say which of the two mutually exclusive states — `_def` lemmas present (`api-design` green, `reuse` red) or absent (`reuse` green, `api-design` red) — is the one to ship, since I cannot produce a head that is both, and name the Mathlib lemma or idiom that supplies the defining equations downstream without them.

`lake build` and `lake exe axioms` are green on `17221ccd` (18806 declarations, all within `[propext, Classical.choice, Quot.sound]`); no code change accompanies this reply, deliberately, since any change would break the rubric that is currently green.

Comment (kim-em) [reply TauCeti/Analysis/Complex/Conformal/Poincare/Ball.lean:1]: **Re: your reply on `reuse` —** re-reviewed on `17221cc`; this clears the finding ✅ — approved on `17221cc`.

<sub>`codex/gpt-5.6-sol` · addresses your replies through comment 3696347059.</sub>
